US05519040
n-BuLi (2.0 mL, 3.2 mmol, 1.6M) was added dropwise to a -78° C. solution of 2-bromothiazole (0.05 g, 3.05 mmol) in dry Et2O. After 1 h at -78° C., a solution of phenyldisulfide (0.7 g, 3.2 mmol) in dry Et2O (6 mL) was added slowly and the solution stirred 20 min. The reaction was quenched with water, the layers separated and the aqueous extracted with EtOAc (4×5 mL). The combined extracts were dried (MgSO4), filtered and concentrated. The crude material was purified by flash chromatography using 5% EtOAc/hexane to give 0.41 g (69%) of 2-thiophenyl thiazole as a colorless oil.

reactant | n-BuLi | 3.2 mmol, 1.6M, 2.0 mL | [Li]CCCC
reactant | 2-bromothiazole | 3.05 mmol, 0.05 g | BrC=1SC=CN1 | C3H2BrNS
reactant | phenyldisulfide | 3.2 mmol, 0.7 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
solvent | Et2O | CCOCC | C4H10O
solvent | Et2O | 6 mL | CCOCC | C4H10O
product | 2-thiophenyl thiazole | 0.41 g, 69% | S1C(=CC=C1)C=1SC=CN1 | C7H5NS2
